US04427687
2-Oxo-5,6-dihydro-3-isopropyl-2H-1,4-thiazine oxime is reacted with N-methyl-N-morpholinosulphenylcarbamoyl fluoride as described in Example 25 to yield 2-oxo-5,6-dihydro-3-isopropyl-2H-1,4-thiazine O-(N-methyl-N-morpholinosulphenylcarbamoyl)oxime, m.p. 127°-128.5° C.

reactant | 2-Oxo-5,6-dihydro-3-isopropyl-2H-1,4-thiazine oxime | N(O)=C1SCCN=C1C(C)C | C7H12N2OS
reactant | N-methyl-N-morpholinosulphenylcarbamoyl fluoride | CN(C(=O)F)SN1CCOCC1 | C6H11FN2O2S
product | 2-oxo-5,6-dihydro-3-isopropyl-2H-1,4-thiazine O-(N-methyl-N-morpholinosulphenylcarbamoyl)oxime | CN(C(=O)ON=C1SCCN=C1C(C)C)SN1CCOCC1 | C13H22N4O3S2
